US07105558B2
Step a. (Adamantan-1-yloxy)-acetic acid.
To a stirred, ice-cooled suspension of sodium hydride (60% dispersion in mineral oil, 39.4 g, 985 mmol) in THF (250 mL) was added dropwise a solution of 1-adamantanol (50.0 g, 328 mmol) in THF (250 mL) over a period of 30 minutes. The resultant suspension was allowed to warm to ambient temperature and stirred at this temperature for 10 minutes. The suspension was re-cooled in ice/water and a solution of chloroacetic acid (46.5 g, 492 mmol) in THF (250 mL) was added slowly over 30 minutes (CARE VERY EXOTHERMIC). The coolant was removed and the suspension was stirred at ambient temperature for 30 minutes and then heated at reflux for 18 hours. The suspension was allowed to cool and carefully quenched with water (750 mL). The mixture was washed with diethyl ether (2×500 mL) and the combined organic phases were discarded. The pH of the aqueous phase was adjusted to 1 with concentrated HCl. The resultant suspension was filtered and the filter-cake washed with water (500 mL). The solid residue was dissolved in chloroform (750 mL) and then washed with saturated brine (750 mL). The organic phase was then dried over magnesium sulfate and the filtrate was evaporated at reduced pressure to give the title compound as a white solid (57.25 g, 83%). 1H NMR (CDCl3) 10.0-9.00 (1H, br s), 4.09 (2H, br s), 2.20 (3H, br s), 1.78-1.77 (6H, m), 1.70-1.58 (6H, m).

reactant | sodium hydride | 985 mmol, 39.4 g | [H-].[Na+]
reactant | 1-adamantanol | 328 mmol, 50.0 g | C12(CC3CC(CC(C1)C3)C2)O | C10H16O
reactant | chloroacetic acid | 492 mmol, 46.5 g | ClCC(=O)O | C2H3ClO2
solvent | THF | 250 mL | C1CCOC1 | C4H8O
solvent | THF | 250 mL | C1CCOC1 | C4H8O
solvent | THF | 250 mL | C1CCOC1 | C4H8O
product | (Adamantan-1-yloxy)-acetic acid | 57.25 g, 83% | C12(CC3CC(CC(C1)C3)C2)OCC(=O)O | C12H18O3
